US08044213B2
To a suspension of 0.524 g (3.80 mmole) of potassium carbonate, 0.5 mL of iodomethane and 8 mL of dimethylformamide was added, dropwise, a solution of 0.141 g (0.76 mmole) of 5-fluoro-2-hydroxy-4-nitro-benzaldehyde (IV.46b) in 1 mL of dimethylformamide. The resulting dark red solution was stirred at room temperature for 3 hours. The mixture was poured into 50 mL of water and extracted three times with 25 mL of ethyl acetate. The combined organic layers were washed three times with 25 mL of water, once with 25 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 0.143 g of 5-fluoro-2-methoxy-4-nitro-benzaldehyde (IV.46c) as a yellow solid.

reactant | potassium carbonate | 3.80 mmole, 0.524 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.5 mL | IC | CH3I
reactant | 5-fluoro-2-hydroxy-4-nitro-benzaldehyde | 0.76 mmole, 0.141 g | FC=1C(=CC(=C(C=O)C1)O)[N+](=O)[O-] | C7H4FNO4
reactant | water | 50 mL | O | H2O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 5-fluoro-2-methoxy-4-nitro-benzaldehyde | 0.143 g | FC=1C(=CC(=C(C=O)C1)OC)[N+](=O)[O-] | C8H6FNO4
